US04230707
G. Ethyl 3,10-dihydro-10-oxo-1H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxylate
Ethyl 6-aminonicotinate (2.5 g., 0.015 mol), methyl 4-oxotetrahydrothiophene-3-carboxylate (6.2 g., 0.039 mol) and p-toluenesulfonic acid monohydrate (0.25 g) are thoroughly mixed and heated at 155°-160° C. under nitrogen for 90 minutes. The distillate is collected in a Dean-Stark trap. The residue is cooled, triturated with boiling ethanol and filtered. Recrystallization from methanol gives yellow crystals (1.2 g.), mp 183°-185° C.

reactant | Ethyl 6-aminonicotinate | 0.015 mol, 2.5 g | NC1=NC=C(C(=O)OCC)C=C1 | C8H10N2O2
reactant | methyl 4-oxotetrahydrothiophene-3-carboxylate | 0.039 mol, 6.2 g | O=C1C(CSC1)C(=O)OC | C6H8O3S
reactant | p-toluenesulfonic acid monohydrate | 0.25 g | O.C1(=CC=C(C=C1)S(=O)(=O)O)C
product | Ethyl 3,10-dihydro-10-oxo-1H-pyrido[1,2-a]thieno[3,4-d]pyrimidine-7-carboxylate | O=C1C2=C(N=C3N1C=C(C=C3)C(=O)OCC)CSC2 | C13H12N2O3S
